US06541638B2
A solution of 12.6 ml (100 mmol) phenethylamine in 50 ml toluene was treated at RT with 7.4 ml (200 mmol) tert-butyl bromoacetate and heated at 95° C. for 4 h. After cooling (0° C.), filtration and evaporation of the filtrate, the residue was suspended in pentane, cooled (0° C.), filtrated and evaporated to give 11.5 g (98%) of phenethylamino-acetic acid tert-butyl ester as an oil, MS: 236 (MH+).

reactant | phenethylamine | 100 mmol, 12.6 ml | C(CC1=CC=CC=C1)N | C8H11N
reactant | tert-butyl bromoacetate | 200 mmol, 7.4 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | phenethylamino-acetic acid tert-butyl ester | 11.5 g, 98% | C(C)(C)(C)OC(CNCCC1=CC=CC=C1)=O | C14H21NO2
